US06083961
To a mixture of 3-amino-1-(tert-butyldiphenylsilyloxy-methyl)-2,6-dichlorobenzene (348 mg) triethylamine (0.15 ml) and dichloromethane (3.5 ml) was added phthalimidoacetyl chloride (186 mg) under ice-cooling, and the mixture was stirred for 1.5 hours at ambient temperature. Water was added thereto, and the resulting precipitates were collected by vacuum filtration and washed with diisopropyl ether to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-(phthalimidoacetylamino)benzene (460 mg) as crystals.

reactant | 3-amino-1-(tert-butyldiphenylsilyloxy-methyl)-2,6-dichlorobenzene | 0.15 ml, 348 mg | NC=1C(=C(C(=CC1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C23H25Cl2NOSi
reactant | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
reactant | phthalimidoacetyl chloride | 186 mg | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
solvent | Water | O | H2O
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-(phthalimidoacetylamino)benzene | 460 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C33H30Cl2N2O4Si
